US07915443B2
(S)-N-[(3-{4-[2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}propyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
To the solution of N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide (450 mg, 0.76 mmol) in anhydrous DMF (5 mL) was added dropwise 1-[2-(2-hydroxyethoxy)ethyl]piperazine. The resulting reaction solution was stirred and heated at 80° C. for 30 min. It was then partitioned between saturated aqueous NaHCO3 and EtOAc. The EtOAc layer was separated and washed with brine (1×). The aqueous NaHCO3 layer was extracted with CHCl3 (1×) and the extract was washed with brine (1×). The organic layers were combined and dried over anhydrous sodium sulfate. The organic solution was decanted, concentrated, and wrapped with silica gel. Column chromatography (MeOH-EtOAc from 1:10 to 1:6) rendered the title compound as white foam in amount of 500 mg (96%).

reactant | N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | 0.76 mmol, 450 mg | BrCCCS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C29H24BrN3O4S
reactant | 1-[2-(2-hydroxyethoxy)ethyl]piperazine | OCCOCCN1CCNCC1 | C8H18N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-N-[(3-{4-[2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}propyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | OCCOCCN1CCN(CC1)CCC[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C37H41N5O6S
